US09255090B2
Synthesis of (4-hydroxy-3-isopropyl-phenyl)-acetic acid tert-butyl ester (C15H22O3, MW=250.16)
To a solution of (4-benzyloxy-3-isopropyl-phenyl)-acetic acid tert-butyl ester (3.04 g, 8.16 mmol, 1 eq) in THF (99 mL) under N2, palladium on activated carbon (10 wt. % 304 mg) was added. The flask was carefully evacuated and refilled with H2 (3×). The black suspension was stirred at r.t. under an H2-atmosphere for 2 days. The black suspension was filtered through Celite and the filter cake was rinsed with THF. The filtrate was concentrated in vacuo to give the title compound as a colorless oil. The product was used without further purification.

reactant | (4-benzyloxy-3-isopropyl-phenyl)-acetic acid tert-butyl ester | 8.16 mmol, 3.04 g, 1 eq | C(C)(C)(C)OC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C(C)C)=O | C22H28O3
solvent | THF | 99 mL | C1CCOC1 | C4H8O
catalyst | palladium on activated carbon | 304 mg | [Pd] | Pd
product | (4-hydroxy-3-isopropyl-phenyl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=C(C=C1)O)C(C)C)=O | C15H22O3
